US04042697
a. 6-Benzyloxy-2-methylisoquinolinium bromide
Sodium carbonate (5 g.), benzyl bromide (2 ml), 6-hydroxy-2-methylisoquinolinium bromide (2.5 g.) in acetonitrile (100 ml) were heated under reflux for 2 hr. The suspension was filtered hot and the filtrate was diluted with ether. The solid that precipitated was crystallised from acetonitrile, and had m.p. 210°-213°.

reactant | Sodium carbonate | 5 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | benzyl bromide | 2 ml | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 6-hydroxy-2-methylisoquinolinium bromide | 2.5 g | [Br-].OC=1C=C2C=C[N+](=CC2=CC1)C
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 6-Benzyloxy-2-methylisoquinolinium bromide | [Br-].C(C1=CC=CC=C1)OC=1C=C2C=C[N+](=CC2=CC1)C | InChI=1S/C17H16NO.BrH/c1-18-10-9-15-11-17(8-7-16(15)12-18)19-13-14-5-3-2-4-6-14;/h2-12H,13H2,1H3;1H/q+1;/p-1
